US07129204B2
(3,5,5 trimethyl hexyl) 4-aminobenzoate (QTR57)
Sodium metal (1 g cat.) was added to ethanol (30 mL) to give a solution which was added to a suspension of ethyl 4-aminobenzoate (175 g, 1.06 mol) and 3,5,5 trimethyl hexanol (200 g, 1.4 mol) in cyclohexane (300 mL). The suspension was heated under reflux for 24 hours with the azeotropic removal of ethanol.

reactant | Sodium | 1 g | [Na] | Na
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | ethyl 4-aminobenzoate | 1.06 mol, 175 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3,5,5 trimethyl hexanol | 1.4 mol, 200 g | CC(CCO)CC(C)(C)C | C9H20O
solvent | cyclohexane | 300 mL | C1CCCCC1 | C6H12
product | (3,5,5 trimethyl hexyl) 4-aminobenzoate | NC1=CC=C(C(=O)OCCC(CC(C)(C)C)C)C=C1 | C16H25NO2
